US06344459B1
To a solution of 6-amino-4-[(3-bromophenyl)amino]quinazoline (2.0 g, 6.35 mmol) in dry DMF (20 mL) under N2 was added acrylic acid (12.7 mmol, 0.87 mL). The resulting solution was cooled to 0° C. and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI.HCl) (7.62 mmol, 1.46 g) was added. The reaction was stirred at 0° C. for 15 minutes and then allowed to warm to room temperature and stirred for a further 2 hours, after which additional acrylic acid (0.30 mL) and EDCI.HCl (0.30 g) were added. After a further 2 hours, the reaction was complete by tlc, solvent was removed under reduced pressure, and the resulting residue diluted with saturated NaHCO3 and repeatedly extracted with EtOAc. The combined organic extracts were washed with brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure. Column chromatography on grade III alumina eluting with EtOAc/MeOH (95:5) followed by recrystallization from EtOAc/hexane gave a spongy white solid, which upon several hours under high vacuum gave N-[4-[(3-bromophenyl)amino]quinazolin-6-yl]acrylamide (1.06 g, 45%) as a cream powder, mp 258-261° C.

reactant | 6-amino-4-[(3-bromophenyl)amino]quinazoline | 6.35 mmol, 2.0 g | NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)Br | C14H11BrN4
reactant | acrylic acid | 12.7 mmol, 0.87 mL | C(C=C)(=O)O | C3H4O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 7.62 mmol, 1.46 g | Cl.CN(CCCN=C=NCC)C
reactant | acrylic acid | 0.30 mL | C(C=C)(=O)O | C3H4O2
reactant | EDCI.HCl | 0.30 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-[4-[(3-bromophenyl)amino]quinazolin-6-yl]acrylamide | 1.06 g, 45% | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=C)=O | C17H13BrN4O
